US04304770
Trifluoroacetic acid (20 ml) was added under ice-cooling to a stirred suspension of 7-[2-t-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer)(2.05 g) in anisole (2 ml), and the resultant mixture was stirred for 2 hours at ambient temperature. The reaction mixture was concentrated under reduced pressure and diethyl ether was added thereto. Precipitates were collected by filtration, washed with diethyl ether, dried and dissolved in an aqueous solution of sodium bicarbonate. An insoluble material was filtered off and the filtrate was adjusted to pH 3.2 with conc.hydrochloride acid. Precipitates were collected by filtration, washed with water and dried to give 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.8 g).

reactant | Trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-[2-t-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.05 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)N | C23H27N9O7S3
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.8 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)N | C19H19N9O7S3
